US07838498B2
Preparation of (3R,4S,5S,6R)-2-(2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (Intermediate BN)
To a stirred −78° C. solution of 1-bromo-2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)benzene (BM) (0.2 g, 0.459 mmol) in 3 mL of 1:2 dry THF:toluene under Ar was added 0.22 mL of 2.5M n-BuLi in hexane (precooled to −78° C.) dropwise to insure the temperature remained below −70° C. After stirring for 40 min, the solution was transferred by cannula to a stirred −78° C. solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one (0.279 g, 0.597 mmol) in 2.5 mL of toluene at a rate that maintained the reaction below −70° C. The mixture was stirred for 3 h at −78° C. prior to addition of MeSO3H (0.093 g, 0.964 mmol) in 2.5 mL of methanol below −75° C. After complete addition, the reaction solution was gradually warmed to room temperature and stirred overnight. After quenching by saturated aq. NaHCO3, the aqueous layer was extracted twice with EtOAc. The combined organic portions were washed with brine and dried over Na2SO4. After concentration, the residue was purified by preparative TLC (eluting with EtOAc:PE=1:5) to obtain 0.11 g of intermediate BN.

reactant | 1-bromo-2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)benzene | 0.459 mmol, 0.2 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCCOCC#CC | C22H24BrClO2
reactant | n-BuLi | 2.5M, 0.22 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | 0.597 mmol, 0.279 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | MeSO3H | 0.964 mmol, 0.093 g | CS(=O)(=O)O | CH4O3S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 2.5 mL | CO | CH4O
product | (3R,4S,5S,6R)-2-(2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 0.11 g | C(C#CC)OCCCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)OCC)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC | C29H37ClO8
